US09062070B2
A solution of 4-bromo-N,N-diethyl-2-[(2R)-2-hydroxypropyl]benzamide (12.2 g, 38.8 mmol) dissolved in 4N HCl in dioxane (200 mL) was stirred at room temperature and monitored by TLC. After 3 days the reaction was partitioned between EtOAc (300 mL) and water (300 mL). The aqueous phase was further extracted with EtOAc (2×250 mL). The combined organic layers were then washed with water (200 mL), brine (200 mL), dried over magnesium sulfate, filtered and concentrated. The crude material was then purified via MPLC (15-30% EtOAc/Hexane) to afford (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one: 1H NMR (500 MHz; CDCl3): 7.98 (d, J=8.2 Hz, 1H), 7.56 (dd, J=1.5, 8.2 Hz, 1H), 7.45 (s, 1H), 4.71 (m, 1H), 2.94 (m, 2H), 1.55 (d, J=6.3 Hz, 3H); LC-MS: (M+1)+ 241.

reactant | 4-bromo-N,N-diethyl-2-[(2R)-2-hydroxypropyl]benzamide | 38.8 mmol, 12.2 g | BrC1=CC(=C(C(=O)N(CC)CC)C=C1)C[C@@H](C)O | C14H20BrNO2
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one | BrC=1C=C2C[C@H](OC(C2=CC1)=O)C | C10H9BrO2
